US05480873
2) 8-Fluoro-5-methoxy-1-tetralone
4-(5-Fluoro-2-methoxy phenyl)butanoic acid (15 g) was mixed with polyphosphoric acid (60 g) and stirred with an overhead stirrer. The reaction mixture was heated to 90° C. and stirred at this temperature for 45 minutes. The reaction mixture was allowed to cool, water (100 ml) and ethyl acetate (100 ml) were added. The mixture was neutralised with sodium hydrogen carbonate solution, the organic phase was collected. The aqueous phase was extracted with ethyl acetate (2×100 ml). The combined organic extracts were dried over magnesium sulphate, filtered and concentrated under reduced pressure to give the crude product. This material was recrystallised from hexane-15% ethyl acetate to give the clean product.

reactant | 4-(5-Fluoro-2-methoxy phenyl)butanoic acid | 15 g | FC=1C=CC(=C(C1)CCCC(=O)O)OC | C11H13FO3
reactant | water | 100 ml | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 8-Fluoro-5-methoxy-1-tetralone | FC=1C=CC(=C2CCCC(C12)=O)OC | C11H11FO2
